Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Amiodarone
 
Attending: ___.
 
Chief Complaint:
Chief Complaint:  hypotension, dark stools
Reason for MICU transfer: hypotension, needs urgent HD  
 
Major Surgical or Invasive Procedure:
- CRRT line placement 
- Arterial line placement
 
History of Present Illness:
This ___ man on chronic hemodialysis for end-stage renal 
disease, hypertensive heart disease with systolic and diastolic 
left ventricular dysfunction and chronic atrial fibrillation on 
long-term warfarin anticoagulation is admitted in transfer for 
management of refractory hypotension.

He was in his usual metastable state until the night prior to 
admission when he had two loose bowel movements, vague flu-like 
symptoms and profuse sweating.  There was a somewhat 
questionable history of dark stools.  His attendant noted 
hypotension with systolic blood pressures in the ___ and a 
temperature of 94°, and notified his physician.  Oral volume 
repletion was not successful and the ambulance that was to bring 
him to hemodialysis was diverted to ___ 
for stabilization and transferred to ___.  He received 1L NS 
at ___ improvement in BP to 95-110. Also given pantoprazole 
IV. He was then transferred to ___ ED for further eval. 

Of note, pt has had several prior admissions for hypotension in 
setting of AFib with RVR. Per outpatient Cardiology notes, 
whenever he misses his home metoprolol this results in 
uncontrolled RVR and hypotension. His wife reports that she HELD 
his home metoprolol this morning beause of hypotension. Also of 
note, he had recent admission from ___ for non-heeling 
L heel ulcer. Debridement and bone fragment culture/path showed 
evidence of chronic osteomyelitis. Wound culture showed 1+ PMNs, 
culture negative. He was treated with empiric IV 
vanco/ceftazidime x6 week course which was completed in 
___. Wife states there has been more weeping from the 
ulcer in the past few days. 

In the ED, initial vitals:  98 139 70/50 16 100% 2L. BP 
spontaneously improved to 127/62 without intervention. EKG 
showed AFib with wide QRS complexes (unchanged from baseline 
except for rate). Labs notable for K 6.7 (not hemolyzed), Cl 21, 
BUN 72, Cr 7.9. H/H 11.7, 38.1, MCV 105. WBC 10.4 with 78.7% 
PMNs. INR 2.3. Lactate 1.6. Stool was dark (not melanotic) and 
guaiac positive. For his hyperkalemia pt received calcium 
gluconate 1g IV, albuterol, and insulin w dextrose. He was typed 
and crossmatched for 2 units blood. Admitted to ICU for urgent 
HD and treatment of hypotension. On transfer, vitals were:  97.1 
137 ___ 100% Nasal Cannula.  

On arrival to the MICU, vitals are: HR 140s, SBP ___, unable to 
obtain temperature (hypothermic). EKG showed AFlutter with wide 
QRS (baseline) and peaked T waves. Received metoprolol 5mg IV 
with no effect and 1L IVF with little improvement effect. 
Started on peripheral neosynephrine. He was mentating well 
throughout, denying any symptoms.

Review of systems: per HPI, otherwise negative.  
 
Past Medical History:
- ESRD (multifactorial ___ HTN and obstructive nephropathy). On 
dialysis since ___. Has LUE AVF. 
- Afib, on Coumadin
- HTN
- CHF (outpatient TTE ___ with LVEF ___ and subsequent 
recovery with EF 48% on office study ___  
- Gout
- PVD
- Hypothyrodism
- Cricopharyngeal dysphagia ___ neck fracture
- Sleep apnea not on home CPAP
- Anemia of chronic disease ___ renal dysfunction
- NIDDM, resolved with weight loss, A1C<5% in ___ 
- H/O autonomic dysfunction, remitted (no longer on midodrine 
and fludrocortisone). Persistent volume-sensitive BP regulation. 

- Urinary retention, straight caths QOD  
 
Social History:
___
Family History:
Numerous with hypertension.

 
Physical Exam:
ADMISSION PHYSICAL EXAM: 

Vitals- T (unable), HR 138, BP 94/58, RR 20, SaO2 100% RA 
General- elderly M in NAD lying flat in bed, talking comfortably 
with examiner. Poor historian.  
HEENT- NC/AT, MMM 
Neck- supple, no JVD  
CV- RRR S1 S2 no R/M/G 
Lungs- CTABL 
Abdomen- SNTND +BS no organomegaly 
GU- No foley  
Ext- cool but with palpable pulses, no pedal edema, bandage over 
L foot 
Neuro- awake, alert, oriented x3, attentive, no gross cranial 
nerve deficits, MAEE 

Exam on Discharge:

Vitals- T 97.7 BP 109/67 P 78 RR 20 99%2L NC
General- NAD, elderly man comfortably lying in HD
HEENT- NC/AT, PERRL, MMM
Neck- supple, no JVD
CV- Irregularly irregular, II/VI SEM at LUSB
Lungs- Grossly clear anteriorly, exam limited by position in HD
Abdomen- + BS, soft, nontender, nondistended
GU- No foley
Ext- warm, well perfused, DP pulses dopplerable bilaterally, 
pedal edema
Left heel ulcer is ~5x3cm, shallow, some granulation tissue and 
fibrinous tissue present, no bleeding or pus.
Neuro- awake, alert, some dysarthria present, no focal 
abnormalities
 
Pertinent Results:
ADMISSION LABS: 
- WBC-10.4 RBC-3.63* Hgb-11.7* Hct-38.1*# MCV-105*# MCH-32.3* 
MCHC-30.8* RDW-14.9 Plt ___
- Neuts-78.7* Lymphs-11.5* Monos-7.6 Eos-1.3 Baso-0.9
- ___ PTT-41.2* ___
- Glucose-120* UreaN-72* Creat-7.9* Na-139 K-6.7* Cl-102 
HCO3-21* AnGap-23*
- ALT-20 AST-24 AlkPhos-178* TotBili-0.3 Lipase-122*
- Albumin-3.7 Calcium-8.8 Phos-4.0 Mg-2.4
- VBG: Temp-36.7 pO2-29* pCO2-47* pH-7.30* calTCO2-24 Base XS--4 
Intubat-NOT INTUBA
- Lactate-1.6 K-6.5*
- UA: Color-Yellow Appear-Cloudy Sp ___ Blood-SM  
Nitrite-NEG Protein-600 Glucose-NEG Ketone-NEG Bilirub-NEG 
Urobiln-NEG pH-7.0 Leuks-LG
URINE RBC-121* WBC->182* Bacteri-MOD Yeast-NONE Epi-5

MICROBIOLOGY:
- UCx (___): no growth (final)
- BCx (___): no growth to date
- Wound Cx (___): 1+ PMNs
GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    RARE GROWTH. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         Rifampin should not be used alone for therapy. 
      CORYNEBACTERIUM SPECIES (DIPHTHEROIDS).    RARE GROWTH. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------   =>8 R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------     1 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


AP CXR (___): As compared to the previous radiograph, there is 
an increase in extent of the pre-existing right pleural 
effusion.  The lung volumes continue to be low.  Minimal fluid 
overload is present.  Apparent increased radiodensity at the 
left lung bases caused by the hands of the patient overlying the 
left pectoral region.  Moderate atelectasis at both the left and 
the right lung bases. 

TTE (___): The left atrium is elongated. The right atrium is 
moderately dilated. No atrial septal defect is seen by 2D or 
color Doppler. The estimated right atrial pressure is ___ mmHg. 
Left ventricular wall thicknesses are normal. The left 
ventricular cavity size is top normal/borderline dilated. 
Overall left ventricular systolic function is moderately 
depressed (LVEF= ___ %). The right ventricular cavity is 
mildly dilated with depressed free wall contractility. There is 
abnormal septal motion/position consistent with right 
ventricular pressure/volume overload. The ascending aorta is 
mildly dilated. There are three aortic valve leaflets. The 
aortic valve leaflets are moderately thickened. There is mild 
aortic valve stenosis (valve area 1.2-1.9cm2). Mild (1+) aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Moderate (2+) 
mitral regurgitation is seen. Moderate [2+] tricuspid 
regurgitation is seen. There is moderate pulmonary artery 
systolic hypertension. There is no pericardial effusion. 

IMPRESSION: Moderate global left ventricular hypokinesis. Mildly 
dilated right ventricle with depressed function. Mild aortic 
stenosis. Moderate mitral and tricuspid regurgitation. Moderate 
pulmonary artery systolic hypertension.  

LEFT FOOT X-RAY (___): 
LEFT FOOT RADIOGRAPH
 
CLINICAL INDICATION:  ___ male with chronic 
osteomyelitis status post antibiotic treatment with heel ulcer.
 
TECHNIQUE:  AP, lateral, and oblique radiographs of the left 
foot were obtained.
 
COMPARISON:  Foot radiography dated ___.
 
FINDINGS:
 
There is ulceration along the posterior heel.  No definite 
cortical irregularity is seen along the posterior aspect of the 
calcaneus to suggest definite osteomyelitis.  There is diffuse 
osteopenia and vascular calcifications present.  Redemonstration 
of ununited fracture of the first proximal phalanx is seen with 
associated fusion of the first interphalangeal joint.  The 
talocalcaneal joint also appears fused.  Severe advanced 
degenerative changes present throughout most of the hindfoot and 
mid foot.  Severe degenerative changes are also present at the 
first MTP joint.
 
IMPRESSION:  Severe osteopenia and degenerative changes as 
detailed above without definite evidence of osteomyelitis.  If 
there is continued clinical concern for osteomyelitis, MRI 
examination may be performed.
 
The study and the report were reviewed by the staff radiologist.

 
Brief Hospital Course:
___ is an ___ M with h/o ESRD on HD, AFib on 
Coumadin, HTN and h/o autonomic neuropathy who presented with 
hypotension and dark stools, found to be in AFlutter/AFib with 
RVR and rates in 140s. 

# SHOCK: Tachycardic to 140s-150s on arrival and hypotensive to 
SBP ___ which improved minimally with 2L IVF and metoprolol 
5mg IV x4, required pressors. Heart rate improved to ___ 
with IV dilt but remained hypotensive. Most likely 
multifactorial etiology: volume depletion (in setting of recent 
diarrhea) and high heart rate leading to poor forward flow in 
setting of systolic CHF and also probable high-output heart 
failure given presence of HD fistula. TTE on admission showed EF 
___. Also considered other etiologies like hypovolemic shock 
from GI blood loss given dark stools, but HCT remained stable 
(hemoconcentrated on admission, then returned to baseline low 
___ and no melanotic stools during admission. Also considered 
septic shock, but there were no infectious sources found on 
cultures. Initially treated with broad spectrum antibiotics 
(vanc/cefepime) but these were stopped on HD #2. Because of his 
severe hypotension on admission, CRRT line was placed and he 
received CRRT until BPs stable on HD#2. A-line also placed for 
ABGs. Received a total of 2L IVF in ICU, and 1L IVF prior to 
admission. He was transferred to the floor where he remained 
normotensive and afebrile.  

# TACHYCARDIA: Pt has history of AFib and frequent episodes of 
RVR in the past. On arrival to the ICU he was in AFlutter with 
rates 140s-150s which was worsening his hypotension. Had not 
received his home dose of metoprolol succinate that day. 
Received metoprolol 5mg IV x4 with little effect on heart rate. 
Diltiazem 10mg IV x1 was then given with significant HR 
improvement (to ___ but persistent hypotension. He was 
restarted on his home metoprolol the morning of HD #2 with good 
rate control in the low 100's.  He was monitored on telemetry 
and had no further episodes of Afib with RVR.   

# CHF: Pt with systolic CHF, EF 30% on TTE during this 
hospitalization. No significant pulmonary edema on admission 
CXR. His home Lasix 80mg 4 times/week was held in ICU due to 
hypotension. He is on metoprolol, no other CHF meds. This was 
discussed with his PCP ___ and family were 
educated on importance of not missing any doses of patient's 
home Metoprolol.  

# LEFT HEEL ULCER: Has chronic L heel osteomyelitis s/p 6 week 
antibiotic course which was completed in ___. 
Given concern for sepsis he had repeat foot x-ray which showed 
no osteomyelitis. Was seen by podiatry who felt the ulcer was 
superficial and non-purulent, recommended wound care with 
HydroGel (dressing changes daily) and making sure his waffle 
boot remained inflated at all times. The heel was debrided in 
the MICU.  He should follow up with his home podiatrist as an 
outpatient.  On day of discharge wound cultures grew coag + 
staph aureus (rare) and corynebacterium diphetheroids.  This was 
discussed with the podiatry who felt that this was likely skin 
contaminant.  There was no indication for further wound 
debridement and given patient's recent aggressive IV antibiotic 
course, both podiatry and primary team felt that oral 
antibiotics were not indicated at this time.  Patient will 
continue to have wound care at home using Hydrogel and will 
follow up with podiatrist. 

# DARK STOOLS: Guaiac positive in ED but no frank melena there 
or in ICU thus far. Considered GI bleed but H/H remained stable. 
Low suspicion for GI bleed at this time. He was initially on 
Pantoprazole 40mg IV BID, then switched back to home PO 
pantoprazole on HD #2.  No further evidence of GI bleed this 
admission and H/H remained stable.  Patient was discharged on 
home Pantoprazole regimen.  

# AFIB: CHADS2 of 3. Anticoagulated with Coumadin. Reversed INR 
with 1 unit of FFP in order to place CRRT line. Home Coumadin 
restarted on ___. Coumadin dose on discharge is 1mg but 
patient was to have INR checked at HD on day after discharge for 
further instructions on Coumadin dosing. 

Transitional Issues:
# Patient will need continued Physical Therapy at home
# Please follow aspiration precautions if re-admitted and 
discharge diet: Pureed (dysphagia), nectar pre-thickened 
liquids, patient to have formal video swallow eval with Speech 
and Swallow on ___
# Patient needs INR checked at HD on ___ and his Coumadin 
dose adjusted (goal ___
# AV Fistula revision scheduled for ___
# Emergency Contact: Wife ___ (phone ___ 
# Code: Full 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325 mg PO Q6H:PRN pain 
2. Allopurinol ___ mg PO DAILY 
3. Cinacalcet 30 mg PO BID 
4. Docusate Sodium 100 mg PO BID 
5. Finasteride 5 mg PO DAILY 
6. Furosemide 80 mg PO 4X/WEEK (___) 
7. Levothyroxine Sodium 100 mcg PO DAILY 
8. Metoprolol Succinate XL 150 mg PO DAILY 
9. Nephrocaps 1 CAP PO DAILY 
10. Pantoprazole 40 mg IV Q12H 
11. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
12. Sucralfate 1 gm PO TID 
13. Warfarin 3 mg PO DAILY16 
14. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
15. Neomycin-Polymyxin B GU 1 mL / 1000 ml SW ___ Q24H 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q6H:PRN pain 
2. Allopurinol ___ mg PO DAILY 
3. Cinacalcet 30 mg PO BID 
4. Docusate Sodium 100 mg PO BID 
5. Levothyroxine Sodium 100 mcg PO DAILY 
6. Neomycin-Polymyxin B GU 1 mL / 1000 ml SW ___ Q24H 
7. Nephrocaps 1 CAP PO DAILY 
8. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
9. Sucralfate 1 gm PO TID 
10. Metoprolol Succinate XL 150 mg PO DAILY 
11. Furosemide 80 mg PO 4X/WEEK (___) 
12. Finasteride 5 mg PO DAILY 
13. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
14. Clotrimazole Cream 1 Appl TP BID 
RX *clotrimazole [Antifungal (clotrimazole)] 1 % Apply moderate 
amount to affected area twice a day Disp #*1 Tube Refills:*0
15. Pantoprazole 40 mg PO Q12H 
16. ___  MD to order daily dose PO DAILY16 
PLEASE CONFIRM YOUR NEW COUMADIN DOSE AFTER INR CHECKED AT 
DIALYSIS ON ___. 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: Hypotension
         Atrial Fibrillation with RVR
Secondary: ESRD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,
 
It was a pleasure treating you during this admission. You were 
admitted to the ___ ICU with 
low blood pressure. This was thought to be related to 
uncontrolled heart rates and volume loss from diarrhea. You were 
treated initially with antibiotics for presumed infection but 
this was continued after cultures returned negative. Metoprolol 
and Diltiazem were used to control your heart rate with 
resulting improved blood pressures at better controlled heart 
rates. Prior to discharge dialysis was completed without 
complication to take off some extra fluid.  You will still be 
scheduled for revision of your AV Fistula on ___ with Dr. 
___ at 1pm.  Please take your Metoprolol every day as 
prescribed, it is very important to keep your heart rate under 
control so that you do not develop very low blood pressure 
again.  Please also go to your dialysis center in ___ 
TOMORROW ___, because you need close follow up of your INR 
(for your warfarin). They will check it tomorrow and let you 
know what dose of warfarin to use. Since your family expressed 
concern regarding your need for oxygen at home, please call Dr. 
___ office on ___ morning to schedule a follow-up 
appointment to discuss this.

We wish you the best.
   
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

You were evaluated by the speech team, who made the 
recommendations that we will write in below.
 
Followup Instructions:
___